US07351827B2
1H-Tetrazole (0.078 g, 1.1 mmol) in dry THF (2 mL) was added dropwise to a stirred solution under N2 of 3-phenyl-1,5-dioxaspiro[3.2]hexane (0.15 g, 0.94 mmol) in dry THF (2 mL) at 0° C. The reaction mixture was stirred for 1 hour and then concentrated. The resultant yellow oil was purified by flash chromatography on silica gel (CH2Cl2/methanol 100:0 to 98:2) to provide 2-hydroxymethyl-3-phenyl-2-(tetrazol-2-yl)oxetane as a pale yellow oil (0.090 g, 42%): IR (CDCl3) 3436 (br), 2916, 1319, 1054, 953 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.70 (s, 1H), 7.42 (m, 5H), 5.37 (dd, J=8.6, 6.9 Hz, 1H), 5.16 (dd, J=8.6, 6.1 Hz, 1H), 5.08 (dd, J=6.2, 6.2 Hz, 1H), 4.21 (dd, J=13.5, 7.5 Hz, 1H), 4.17 (dd, J=13.5, 7.4 Hz, 1H), 1.86 (dd, J=7.4, 7.4 Hz, 1H); 13C NMR (100 MHz, CDCl3) δ 153.1, 133.2, 129.1, 128.5, 128.1, 100.9, 69.6, 62.6, 47.8; MS (EI) m/z 204 (M+—N2), 185, 173, 104 (100), 91, 78; Anal. calculated for C11H12N4O2: C, 56.89; H, 5.21; N, 24.12. Found: C, 56.76; H, 5.14; N, 23.78.

reactant | 1H-Tetrazole | 1.1 mmol, 0.078 g | N1N=NN=C1 | CH2N4
reactant | 3-phenyl-1,5-dioxaspiro[3.2]hexane | 0.94 mmol, 0.15 g | C1(=CC=CC=C1)C1COC12OC2 | C10H10O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-hydroxymethyl-3-phenyl-2-(tetrazol-2-yl)oxetane | 0.090 g, 42% | OCC1(OCC1C1=CC=CC=C1)N1N=CN=N1 | C11H12N4O2
